US07465795B2
2-(Biphenyl-2-yl-hydrazono)-2-cyano-N-cyclopropylmethyl-acetamide
To a stirred solution of 2-aminobiphenyl (2.95 g, 17.4 mmol) in glacial acetic acid (16 mL) and water (14 mL) with cooling was added dropwise concentrated hydrochloric acid (10mL). Additional water (10mL) was added to maintain stirring. The mixture was cooled to 0° C. and a solution of sodium nitrite (1.44 g, 20.7 mmol) in water (10mL) was added dropwise maintaining an internal temperature of <5° C. Upon complete addition, the reaction was stirred at 0° C. for 30 minutes, poured portionwise into a mechanically stirred 3-necked round bottomed flask charged with a predissolved solution of 2-cyano-N-cyclopropylmethylacetamide (2.8 g, 20.3 mmol), sodium acetate (12.0 g, 146 mmol), and sodium carbonate (12.8 g, 121 mmol) in 2:1 water:ethanol (180 mL). Vigorous CO2(g) evolution was observed. After 1 hour at 0° C., the reaction was diluted with water (200 mL) and extracted with ethyl acetate (400 mL). The organic layer was washed with water (200 mL) and brine (200 mL) and dried over sodium sulfate. The mixture was filtered, concentrated, and purified by recrystallization from ethyl acetate/hexanes to afford the title compound as a yellow solid (2.0 g, 36%). 1H NMR (500.133 MHz, CDCl3) δ 9.23 (t, J=5.3 Hz, 1H), 9.13 (bs, 1H), 8.43 (d, J=8.3 Hz, 1H), 8.17 (bs, 1H), 7.86 (d, J=7.2 Hz, 1H), 7.81 (t, J=7.6 Hz, 1H), 7.71 (d, J=7.5 Hz, 2H), 7.49 (t, J=7.2 Hz, 2H), 7.43 (t, J=7.2 Hz, 1H), 3.30 (s, 0H), 3.23 (t, J=6.1 Hz, 2H), 1.12 (septet, J=6.4 Hz, 1H), 0.45 (d, J=8.0 Hz, 2H), 0.29 (d, J=4.1 Hz, 2H). MS APCI, m/z=319 (M+H). HPLC 1.84 min.

reactant | 2-aminobiphenyl | 17.4 mmol, 2.95 g | NC1=C(C=CC=C1)C1=CC=CC=C1 | C12H11N
reactant | hydrochloric acid | 10mL | Cl | ClH
reactant | sodium nitrite | 20.7 mmol, 1.44 g | N(=O)[O-].[Na+]
reactant | 2-cyano-N-cyclopropylmethylacetamide | 20.3 mmol, 2.8 g | C(#N)CC(=O)NCC1CC1 | C7H10N2O
reactant | sodium acetate | 146 mmol, 12.0 g | C(C)(=O)[O-].[Na+]
reactant | sodium carbonate | 121 mmol, 12.8 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | CO2 | C(=O)=O | CO2
solvent | acetic acid | 16 mL | C(C)(=O)O | C2H4O2
solvent | water | 14 mL | O | H2O
solvent | water | 10mL | O | H2O
solvent | water | 200 mL | O | H2O
solvent | water | 10mL | O | H2O
solvent | ethanol | 180 mL | C(C)O | C2H6O
product | 2-(Biphenyl-2-yl-hydrazono)-2-cyano-N-cyclopropylmethyl-acetamide | 2.0 g, 36% | C1(=C(C=CC=C1)NN=C(C(=O)NCC1CC1)C#N)C1=CC=CC=C1 | C19H18N4O
